US07217824B2
The 4,7-bis(5-bromothien-2-yl)-2,1,3-benzothiadiazole is traditionally prepared from 4,7-bis(thien-2-yl)-2,1,3-benzothiadiazole, which in turn is prepared by the Stille coupling reaction of 4,7-dibromo-2,1,3-benzothiadiazole with tributyl(thien-2-yl)stannane as described by Kitamura et al., Chem. Mater., Vol. 8, 1996, pp. 570–578. Unfortunately, tributyl(thien-2-yl) stannane is a highly toxic and costly material that produces a toxic by-product tributyltin bromide. The process is further disadvantaged because the subsequent bromination reaction is carried out in a mixture of N-bromosuccinimide, chloroform, and acetic acid, which requires numerous crystallizations of the product to obtain a suitably pure material in the subsequent copolymerization reaction.

reactant | 4,7-bis(5-bromothien-2-yl)-2,1,3-benzothiadiazole | BrC1=CC=C(S1)C1=CC=C(C2=NSN=C21)C=2SC(=CC2)Br | C14H6Br2N2S3
reactant | 4,7-bis(thien-2-yl)-2,1,3-benzothiadiazole | S1C(=CC=C1)C1=CC=C(C2=NSN=C21)C=2SC=CC2 | C14H8N2S3
reactant | 4,7-dibromo-2,1,3-benzothiadiazole | BrC1=CC=C(C2=NSN=C21)Br | C6H2Br2N2S
reactant | tributyl(thien-2-yl)stannane | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
product | tributyltin bromide | C(CCC)[Sn](CCCC)(CCCC)Br | InChI=1S/3C4H9.BrH.Sn/c3*1-3-4-2;;/h3*1,3-4H2,2H3;1H;/q;;;;+1/p-1
